US09403816B2
3-(Benzyloxy)-6-bromo-4-hydroxyquinolin-2(1H)-one
To a solution of methyl 2-(2-(benzyloxy)acetamido)-5-bromobenzoate (15 g, 39.7 mmol, Intermediate 11: step a) in THF (198 mL) was added KHMDS (1 M in THF, 119 mL, 119 mmol). The resulting solution was stirred at room temperature for 40 minutes and then additional KHMDS (19.8 mL, 19.8 mmol) was added and stirring continued at room temperature for 2 hours. The mixture was quenched with water (225 mL) and the layers were separated. The aqueous layer was acidified with 1 N aqueous HCl to pH 2-3. Some of the title compound precipitated out of solution and was collected by filtration. The aqueous was then extracted with EtOAc (3×200 mL). The organics were combined with the solid collected previously and sonicated. The solution was dried (Na2SO4), filtered and concentrated to dryness to provide the title compound as a yellow solid.

reactant | methyl 2-(2-(benzyloxy)acetamido)-5-bromobenzoate | C(C1=CC=CC=C1)OCC(=O)NC1=C(C(=O)OC)C=C(C=C1)Br | C17H16BrNO4
reactant | KHMDS | 119 mmol, 1 M, 119 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | KHMDS | 19.8 mmol, 19.8 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | THF | 198 mL | C1CCOC1 | C4H8O
product | 3-(Benzyloxy)-6-bromo-4-hydroxyquinolin-2(1H)-one | C(C1=CC=CC=C1)OC=1C(NC2=CC=C(C=C2C1O)Br)=O | C16H12BrNO3
